US08957080B2
Into a 100 mL round-bottom flask, was placed a solution of 3-[4-(3-fluorophenoxy)-phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (180 mg, 0.45 mmol, 1.00 equiv) in dichloromethane (50 mL), 2-cyanoacetic acid (56 mg, 0.66 mmol, 1.50 equiv), and 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole (108 mg, 0.67 mmol, 1.50 equiv). The resulting solution was stirred for 24 h at room temperature and then diluted with 100 mL dichloromethane. The resulting mixture was washed NH4Cl, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 120 mg (57%) of 3-[(3R)-3-[4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile as a white solid.

reactant | 3-[4-(3-fluorophenoxy)-phenyl]-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.45 mmol, 180 mg, 1.00 equiv | FC=1C=C(OC2=CC=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@H]3CNCCC3)C=CC1 | C22H21FN6O
reactant | 2-cyanoacetic acid | 0.66 mmol, 56 mg, 1.50 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | 1-[(1H-imidazol-1-yl)carbonyl]-1H-imidazole | 0.67 mmol, 108 mg, 1.50 equiv | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-[(3R)-3-[4-amino-3-[4-(3-fluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 120 mg, 57% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
